US04483857
2-Phenoxy-4-(4-formylpiperazino)pyrimidine (2.6 g) in methanol (27 ml) and 2N hydrochloric acid (6.9 ml) was left at room temperature for 24 hours and then heated on a steam bath for 30 minutes. The solvent was evaporated in vacuo and the residue re-crystallized twice from isopropanol to give 2-phenoxy-4-piperazinopyrimidine (1.5 g) characterized spectroscopically, and used directly.

reactant | 2-Phenoxy-4-(4-formylpiperazino)pyrimidine | 2.6 g | O(C1=CC=CC=C1)C1=NC=CC(=N1)N1CCN(CC1)C=O | C15H16N4O2
solvent | methanol | 27 ml | CO | CH4O
solvent | hydrochloric acid | 2N, 6.9 ml | Cl | ClH
product | 2-phenoxy-4-piperazinopyrimidine | 1.5 g | O(C1=CC=CC=C1)C1=NC=CC(=N1)N1CCNCC1 | C14H16N4O
